US05821240
(73) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[2-(4-acetyl-1-piperazinyl)ethylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[2-(1-piperazinyl)ethylamino]pyrimido[5,4-d]pyrimidine by reaction with acetic anhydride. Melting point: 196°-198° C.; Rf : 0.59 (alumina; methylene chloride/methanol=10:0.4)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[2-(1-piperazinyl)ethylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCCN2CCNCC2 | C18H20ClFN8
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[2-(4-acetyl-1-piperazinyl)ethylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCCN2CCN(CC2)C(C)=O | C20H22ClFN8O
